US06630461B2
55.1 Ethyl 1-(4-nitrophenyl)-1H-pyrrole-2-carboxylate
0.9 g (7.2 mmol) of the methyl ester of pyrrole-2-carboxylic acid (prepared in a standard fashion by the esterification of commercial pyrrole-2-carboxylic acid) diluted with 10 ml of dry DMF is added dropwise at 0° C., under an inert atmosphere, to a suspension of 0.3 g (7.4 mmol) of NaH at 60% in 15 ml of dry DMF. After agitation for one hour at 23° C., a solution of 1.01 g (7.2 mmol) of 4-fluoronitrobenzene in 10 ml of dry DMF is added dropwise. The reaction mixture is then heated for 3 hours at 80° C. After the reaction medium has returned to 23° C., it is poured into 100 ml of an ice+water mixture and finally diluted with 200 ml of ethyl acetate. After decantation, the organic phase is washed with 3 times 100 ml of water followed by 100 ml of salt water. The organic solution is dried over magnesium sulphate, filtered and concentrated under vacuum. The evaporation residue is purified on a silica column (eluant: heptane/ethyl acetate: 9/1). The pure fractions are collected and evaporated under vacuum in order to produce a pale yellow powder with a yield of 49%.

reactant | pyrrole-2-carboxylic acid | N1C(=CC=C1)C(=O)O | C5H5NO2
reactant | NaH | 7.4 mmol, 0.3 g | [H-].[Na+]
reactant | 4-fluoronitrobenzene | 7.2 mmol, 1.01 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | Ethyl 1-(4-nitrophenyl)-1H-pyrrole-2-carboxylate | yield of 49% | [N+](=O)([O-])C1=CC=C(C=C1)N1C(=CC=C1)C(=O)OCC | C13H12N2O4
